US04994452
To a suspension of 1,3,9,10,11,12-hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]-benzoxazepin-2-one (5.0 g) in dry tetrahydrofuran (150 ml) was added potassium t-butoxide (3.15 g), with stirring. After 15 mins, methyl iodide (1.39 ml) was added, and the reaction mixture was stirred at room temperature overnight. Additional methyl iodide (0.4 ml) was added. The reaction mixture was refluxed for two hrs, cooled, and concentrated. Saturated potassium carbonate solution was added and the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated, and the residue was adhered to silica, and flash chromatographed (30-60% ethyl acetate/hexane). The appropriate fractions were concentrated, and the residue was triturated with diethyl ether to give 4.21 g (80%) of 1,3-dimethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one.

reactant | 1,3,9,10,11,12-hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]-benzoxazepin-2-one | 5.0 g | CC1OC2=C3C(NC1=O)=C1CCCCC1=NC3=CC=C2 | C16H16N2O2
reactant | potassium t-butoxide | 3.15 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.39 ml | CI | CH3I
reactant | methyl iodide | 0.4 ml | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.21 g, 80% | CN1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C)=O | C17H18N2O2
